Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@:2]1([H:13])[C:3][C@@:4]([C:6]([H:14])([H:15])[H:16])([O:7][H:17])[C:5]1([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],27.4742740547683
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])(/[C:5](=[C:6](\[O:7][H:19])[H:18])[H:15])[H:11])([H:8])([H:9])[H:10].[H:16][H:17],94.2722390373905
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([C:2]([C:3](=[O+:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])[H:9].[C:4]([H:8])([H:13])([H:14])[H:15],91.29633674239159
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C-:4]#[O+:5].[C:6](#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8],52.2943446781627
[N:1](=[C:2](/[O:3][H:8])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],25.8001080893106
[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1>>[C:2](#[C:3][H:7])[H:6].[O:1][C:4](=[N:5])[H:8],136.197210513805
[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9],74.2557901060514
[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C@:2]12[C:3]([H:10])([H:11])[O:6][C@@:5]1([H:12])[O:4]2)([H:7])([H:8])[H:9],63.1758250140687
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[H:10][H:11].[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C-:5]=[O+:6]1,79.35309664656509
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:14],58.6742292624018
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([H:15])[H:16])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])(=[O:7])[H:17].[H:11][H:21],59.9185308120852
[C:3](=[O:4])=[C:5]([H:10])[H:11].[O:1]([C:2]([O:6][H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],84.99276773374521
[H:9][H:12].[N:1]([C:2](=[O:3])/[C:4](=[C:5](\[O:6][H:13])[H:11])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],76.6088307607557
[C:1]([H:7])([H:8])([H:9])[H:11].[N:2](=[C:3]=[N:4][H:10])[C:5]#[N:6]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],84.14030233862533
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C@@:7]1([C:6]([C:5](=[O:4])[H:10])([H:11])[H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],29.45330293257595
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:8].[C:3](=[C:4]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11].[H:9][H:13],55.1044935127637
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3]([O:4][C:5](=[O:6])[H:14])[H:13])([H:10])[H:11],107.78707098002899
[O:1]=[C:2](/[N+:3](=[C:4](/[C:5]([C-:6]=[C:7]([H:11])[H:14])([H:12])[H:13])[H:10])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],17.455029561644693
[C-:2]#[O+:3].[C:1]([O:7][C:6](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],45.61150830168471
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:4][C:3]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16],109.71778511845899
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]1([H:7])[C:2]([H:8])=[O+:3][C:4]([H:9])([H:10])[C-:5]1[O:6][H:11],81.131506119712
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]1[C@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([H:9])[C:6][C:7]1([H:8])[H:13],88.67695510511079
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]/[C:4](=[C:5](/[C:6](=[O:7])[H:13])[H:11])[H:12])([H:9])[H:10])[H:8],55.17316402203589
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:4]1=[C:5](/[C:6](=[O:7])[H:17])[H:15])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],66.2664814892981
[N:1](=[C:2]=[C:3]([H:7])[H:8])[H:6].[N:4]#[N:5]>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,65.89901505318291
